### PR TITLE
Add numZmodType

### PR DESCRIPTION
**Pull request by proux01**
~TODO: ensure https://github.com/math-comp/math-comp/pull/1513#issuecomment-3721752811 is addressed~ (done)

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/num_theory/numdomain.v [hunk 1]
```diff
@@ -52,7 +52,16 @@ Import orderedzmod.Num.
...
 
-HB.mixin Record Zmodule_isSemiNormed (R : POrderedZmodule.type) M
+(* 
+HB.mixin Record Zmodule_isSemiPseudoNormed (R : POrderedZmodule.type) M
+         of GRing.Zmodule M := {
+  enorm : M -> \bar R;
+  ler_normD : forall x y, norm (x + y) <= norm x + norm y;
+  normrMn : forall x n, norm (x *+ n) = norm x *+ n;
+  normrN : forall x, norm (- x) = norm x;
+}. *)
```
Comment (proux01) [inline algebra/num_theory/numdomain.v]: This should be handled (or discarded / issue opened) before merging.

File: algebra/num_theory/orderedzmod.v [hunk 2]
```diff
@@ -54,9 +65,66 @@ Fact ring_display : Order.disp_t. Proof. exact. Qed.
...
+HB.mixin Record Add_isHomo R of POrderNmodule R := {
+  ler_wD2l : forall x : R, {homo +%R x : y z / y <= z}
+}.
+
+(* TODO provide the positive cone definition of porderZmodType *)
+(* HB.factory Record ZmodulePositiveCone_isPOrdered of GRing.Zmodule R *)
+(*    & Order.isPOrder ring_display R := { *)
+(*   (* TODO: is posnum the right name? *) *)
+(*   posnum : {pred R}; *)
+(*   posnum0 :  *)
```
Comment (proux01) [inline algebra/num_theory/orderedzmod.v]: This should be handled (or discarded / issue opened) before merging.

File: algebra/num_theory/numdomain.v (hunk 1 above)
Comment (proux01) [reply algebra/num_theory/numdomain.v]: Deferred to https://github.com/math-comp/math-comp/pull/1338

File: algebra/num_theory/orderedzmod.v [hunk 3]
```diff
@@ -206,7 +274,818 @@ Export Order.PreOCoercions.
...
+Lemma realBC x y : (x - y \is Num.real) = (y - x \is Num.real).
+Proof. exact: rpredBC. Qed.
+
+Lemma realD : {in Num.real &, forall x y, x + y \is Num.real}.
+Proof. exact: rpredD. Qed.
+
+(* TODO: should work for semiring *)
+(* Lemma real1 : 1%R \is @real R. Proof. exact: rpred1. Qed. *)
+(* Lemma realn n : n%:R \is @real R. Proof. exact: rpred_nat. Qed. *)
+(* #[local] Hint Resolve real0 real1 : core. *)
```
Comment (proux01) [inline algebra/num_theory/orderedzmod.v:880]: Maybe we should open an issue about that to remember to handle it in a future PR?

File: algebra/num_theory/orderedzmod.v [hunk 4]
```diff
@@ -54,9 +65,103 @@ Fact ring_display : Order.disp_t. Proof. exact. Qed.
...
+
+Section ZmodulePositiveCone.
+Variable R : zmodType.
+Variable posnum : {pred R}.
+Hypothesis posnum0 : posnum 0.
+Hypothesis posnumD : forall x y, posnum x -> posnum y -> posnum (x + y).
+Hypothesis posnum_definite : forall x, posnum x -> posnum (- x) -> x = 0.
+Local Notation type := (type posnum0 posnumD posnum_definite).
+
+Definition le x y := posnum (y - x).
```
Comment (proux01) [inline algebra/num_theory/orderedzmod.v]: @CohenCyril is it what you had in mind when you wrote
```coq
(* TODO provide the positive cone definition of porderZmodType *)
(* HB.factory Record ZmodulePositiveCone_isPOrdered of GRing.Zmodule R *)
(*    & Order.isPOrder ring_display R := { *)
(*   (* TODO: is posnum the right name? *) *)
(*   posnum : {pred R}; *)                                                                                                                                                                
(*   posnum0 :  *)
```
If yes, we should document it in the header and this is ready.
Otherwise we should probably postpone this point to a further PR.

Comment (CohenCyril) [reply algebra/num_theory/orderedzmod.v]: Yes! Except I screwed up the name since it should be called nonneg, I envisioned it as a factory since it is an equivalent presentation.

Comment (proux01) [reply algebra/num_theory/orderedzmod.v]: Apparently, the term "positive cone" also exists: https://en.wikipedia.org/wiki/Partially_ordered_group but I agree that nonneg would be better (at least to replace `posnum`).
I did not implement it as a factory because of non-forgetful inheritance (the <= being built out of posnum and subtraction). Maybe a better solution would be to add an axiom `le_sub_def : forall x y, (x <= y) = posnum (y - x)`or something like that.

Comment (CohenCyril) [reply algebra/num_theory/orderedzmod.v]: > Apparently, the term "positive cone" also exists: https://en.wikipedia.org/wiki/Partially_ordered_group but I agree that nonneg would be better (at least to replace `posnum`).

Yes. We should definitely keep the name "positive cone" and just change the name `posnum`.

> I did not implement it as a factory because of non-forgetful inheritance (the <= being built out of posnum and subtraction). Maybe a better solution would be to add an axiom `le_sub_def : forall x y, (x <= y) = posnum (y - x)` or something like that.

Where would be the non-forgetful inheritance? There is no instance involved here... That being said it would indeed duplicate the posnum/nonneg definition and the one from `interval_inference` is the one that is the most useful. Also an unspoken invariant of factories, written [here](https://github.com/math-comp/hierarchy-builder/issues/541) but not yet enforced, that makes having `posnum` part of a factory an issue.

Comment (proux01) [reply algebra/num_theory/orderedzmod.v]: My bad, I miswrote `HB.factory Record ZmodulePositiveCone (R : zmodType)` instead of `HB.factory Record ZmodulePositiveCone R of GRing.Zmodule R` and this lead to a spurious non forgetful inheritance warning (and other issues). Now fixed.
